US07858647B2
6.53 g 4-(2-Amino-ethyl)-N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-benzene sulfonamide hydrochloride were dissolved in 150 ml dimethylformamide. 8.54 ml N,N-diisopropylethylamine, 3.6 g 2-methoxy-4-(trifluoromethyl)benzoic acid and 6.44 g O-((Ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate were added. The reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the resulting residue was purified by RP-HPLC to obtain 5.0 g N-{2-[4-(5-Isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-ethyl}-2-methoxy-4-trifluoromethyl-benzamide as white solid.

reactant | 4-(2-Amino-ethyl)-N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-benzene sulfonamide hydrochloride | 6.53 g | Cl.NCCC1=CC=C(C=C1)S(=O)(=O)NC=1SC(=NN1)C(C)C
reactant | N,N-diisopropylethylamine | 8.54 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxy-4-(trifluoromethyl)benzoic acid | 3.6 g | COC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C9H7F3O3
reactant | O-((Ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 6.44 g | F[B-](F)(F)F.C(C)OC(=O)C(C#N)=NOC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-{2-[4-(5-Isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-ethyl}-2-methoxy-4-trifluoromethyl-benzamide | 5.0 g | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)CCNC(C1=C(C=C(C=C1)C(F)(F)F)OC)=O | C22H23F3N4O4S2
